US06130217
7-Methoxy-2-methyl-benzothiazole (400 mg, 2.23 mmol) was mechanically mixed with solid pyridine hydrochloride (6.00 g, 52 mmol) and then heated to 160-170° C. in a sealed vessel for 16 hours. Water (40 mL) was added to the warm mixture, the pH was adjusted to neutrality with NaHCO3 and the mixture was extracted with 1:1 CHCl2 /CHCl3 (4×10 mL). The pooled organic extracts were dried over MgSO4, filtered, and concentrated in vacuo to provide 2-methyl-benzothiazol-7-ol as a waxy yellow solid. (260 mg; GC-MS m/z 165).

reactant | 7-Methoxy-2-methyl-benzothiazole | 2.23 mmol, 400 mg | COC1=CC=CC=2N=C(SC21)C | C9H9NOS
reactant | pyridine hydrochloride | 52 mmol, 6.00 g | Cl.N1=CC=CC=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Water | 40 mL | O | H2O
product | 2-methyl-benzothiazol-7-ol | CC=1SC2=C(N1)C=CC=C2O | C8H7NOS
